Name:  ___        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
pain Rx / Nabumetone / tramadol
 
Attending: ___.
 
Chief Complaint:
Dizziness

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
This patient is a ___ year old female with HTN, HLD, DM2, 
hyperparathyroidism s/p parathyroidectomy who complains of 
instant dizziness which began shortly after taking newly 
prescribed tramadol for arm pain as well as new belly pain and 
nausea. Denies weakness or numbness; also belly pain and nausea. 
Patient states that her nausea occurred within 2 hours of taking 
tramadol. Patient was tachycardic to 107 in the ED.  Initially 
had lactate of 3 which downtrended to 1.8 with IV fluids. 
Patient being admitted due to elevated lactate despite negative 
UA, CXR, CT Abd pelvis with contrast. 

In the ED, initial vs were: 100 168/72 22 99%. Labs were 
remarkable for WBC of 13.7 and Lactate 3 which downtrended to 
11.1 and 1.8 respectively with IV fluid

 
Past Medical History:
DIABETES MELLITUS
HTN
HYPERLIPIDEMIA   
OSTEOPOROSIS   
HYPERPARATHYROIDISM   
GLAUCOMA   
S/P APPENDECTOMY   
PARATHYROID SURGERY  

 
Social History:
___
Family History:
non contributory

 
Physical Exam:
ADMISSION EXAM:
PHYSICAL EXAM:  
Vitals: 98.4 157/74 90 18 95RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
  
DISCHARGE EXAM:
PHYSICAL EXAM:  
Vitals: 99 132/84 90 20 96RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
  

 
Pertinent Results:
ADMISSION LABS:
___ 01:50AM BLOOD WBC-13.7*# RBC-4.42 Hgb-12.7 Hct-39.3 
MCV-89 MCH-28.8 MCHC-32.4 RDW-13.2 Plt ___
___ 01:50AM BLOOD Neuts-76.3* ___ Monos-3.1 Eos-0.7 
Baso-0.5
___ 01:50AM BLOOD Glucose-178* UreaN-25* Creat-0.8 Na-131* 
K-7.4* Cl-94* HCO3-23 AnGap-21*
___ 06:15AM BLOOD Calcium-9.2 Phos-3.6 Mg-2.1
___ 05:13AM BLOOD Lactate-3.2* Na-135 K-5.0 Cl-96
___ 07:32AM BLOOD Lactate-2.1*
___ 10:12AM BLOOD Lactate-3.0*
___ 03:54PM BLOOD Lactate-1.8

DISCHARGE LABS:

___ 06:15AM BLOOD WBC-8.0 RBC-4.06* Hgb-11.7* Hct-35.7* 
MCV-88 MCH-28.7 MCHC-32.7 RDW-13.6 Plt ___
___ 06:15AM BLOOD Glucose-93 UreaN-13 Creat-0.7 Na-142 
K-3.9 Cl-105 HCO___ AnG___ year old female with HTN, HLD, DM2, hyperparathyroidism s/p 
parathyroidectomy presenting with dizziness after taking 
tramadol as well as elevated lactate which has since resolved.

# Dizzness: likely in setting of taking new pain medication, 
tramadol.  patient is opiate naive, and although tramadol is not 
a classic opiate, she may have become dizzy as a result. Nausea 
likely associated with dizziness, however they may also have 
aggravated her dizziness if it caused her to become orthostatic.
 
#  Elevated lactate: Downtrended with fluid administration.  At 
no time did she have elevated gap.  Likely related to 
dehydration in setting of nausea and poor PO intake after 
becoming dizzy. Also potentially with NASH causing decreased 
clearance (given her body habitus). Patient does not take 
metformin as an outpatient, so that is not the cause of lactic 
acidosis. Given normal lactate in ED, did not repeat in AM.

#  Diabetes Mellitus: Held oral hypoglycemics in house and use 
insulin sliding scale

#HTN: no acute exacerbation.  Continued on lisinopril and HCTZ 
on discharge, held initially in setting of possible volume 
depletion.

#HLD: no acute exacerbation of chronic problems.  will continue 
home medications.

#Arm pain: s/p flu shot administration.  Shoulder and humerus 
films negative.  Patient states that tylenol doesn't improve 
pain significantly, however no difficulties with range of 
morning in AM.
  
TRANSITIONAL ISSUES:
Findings found on CT Abdomen that are non-urgent but should be 
evaluated by PCP:
1.Diverticulosis. 
  
2.Hyperdense region in hepatic segment 7 which likely represents 
a perfusion abnormality.  further evaluation can be made with 
nonemergent ultrasound if indicated to confirm the absence of an 
underlying lesion. 
 
3. Bilateral renal cysts.  A right interpolar cyst is slightly 
dense but still likely to be proteinaceous or hemorrhagic cyst.  
Further evaluation may be obtained with nonemergent ultrasound 
if indicated. 
  
4. Fat containing umbilical and left-sided inguinal hernia. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 200 mg PO Q12H:PRN HSV flare 
2. Atorvastatin 20 mg PO DAILY 
3. GlipiZIDE XL 2.5 mg PO DAILY 
4. Lidocaine 5% Patch 1 PTCH TD DAILY 
5. Lisinopril 40 mg PO DAILY 
6. nystatin *NF* 100,000 unit/g Topical bid 
7. TraMADOL (Ultram) 50 mg PO Q8H:PRN pain 
8. Aspirin 81 mg PO DAILY 
9. Calcium Carbonate 1500 mg PO DAILY 
10. Multivitamins 1 TAB PO DAILY 
11. Hydrochlorothiazide 25 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 20 mg PO DAILY 
3. Calcium Carbonate 1500 mg PO DAILY 
4. Lidocaine 5% Patch 1 PTCH TD DAILY 
5. Lisinopril 40 mg PO DAILY 
6. Acyclovir 200 mg PO Q12H:PRN HSV flare 
7. GlipiZIDE XL 2.5 mg PO DAILY 
8. Hydrochlorothiazide 25 mg PO DAILY 
9. Multivitamins 1 TAB PO DAILY 
10. nystatin *NF* 100,000 unit/g Topical bid 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Tramadol induced dizziness
Dehydration

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ for dizziness.  We think this was 
likely caused by your use of tramadol.  Please do not continue 
to take this medication.  While you were here, we noticed a 
measure of your blood, called lactate, was high.  This may have 
occurred if you were not eating and drinking enough over the 
last 2 days, or it may have been caused by that in combination 
with a medication you were taking.  Either way, it went down to 
normal within a few hours.

You had a CT scan of your belly which showed a few things you 
should discuss with your primary doctor:
1. Diverticulosis
2. A non-urgent lesion in your liver which can be better seen 
with ultrasound
3. Renal cysts on both of your kidneys
4. An umbilical hernia with fat in it
5. A left inguinal hernia

None of these are urgent, but you should discuss them with your 
PCP.

You should continue to take your medications and follow up with 
your primary doctor.
 
Followup Instructions:
___